US05885999
b) N-Phenyl-N-[(piperidin-4-yl)methyl]acetamide Hydrochloride
Methanolic hydrogen chloride (4M, 20 mL) was added to a stirred, cooled (0° C.) solution of N-[(1-t-butoxycarbonylpiperidin-4-yl)methyl]-N-phenylacetamide (2.72 g, 8.2 mmol) in methanol (10 mL) and the mixture was stirred at room temperature for 1 h. The solvent was evaporated under reduced pressure to give the title compound as a tan foam (2.17 g, 99%), δH (250 MHz, d6 -DMSO) 9.12-8.70 (2H, br m), 7.50-7.33 (5H, m), 3.57 (2H, d, J 7.1 Hz), 3.19 (2H, m), 2.75 (2H, m), 1.73 (6H, m), and 1.37 (2H, m).

reactant | hydrogen chloride | 4M, 20 mL | Cl | ClH
reactant | N-[(1-t-butoxycarbonylpiperidin-4-yl)methyl]-N-phenylacetamide | 8.2 mmol, 2.72 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C(C)=O)C1=CC=CC=C1 | C19H28N2O3
solvent | methanol | 10 mL | CO | CH4O
product | N-Phenyl-N-[(piperidin-4-yl)methyl]acetamide Hydrochloride | 2.17 g, 99% | Cl.C1(=CC=CC=C1)N(C(C)=O)CC1CCNCC1 | InChI=1S/C14H20N2O.ClH/c1-12(17)16(14-5-3-2-4-6-14)11-13-7-9-15-10-8-13;/h2-6,13,15H,7-11H2,1H3;1H
